US20010014691A1
(3R)-N-(tert-Butoxycarbonyl)-3-hydroxypyrrolidine
Under a nitrogen atmosphere, di-tert-butyl dicarbonate (12.53 g, 57.39 mmol) was slowly added in portions to a cold (0-5° C.), stirring solution of (R)-(+)-3-pyrrolidinol (5.00 g, 57.39 mmol) in tetrahydrofuran (30 mL). The light yellow solution was allowed to stir and warm to ambient temperature over several hours. The solution was concentrated (rotary evaporation and high vacuum) to give a yellow oil. The oil was treated with saturated NaHCO3 solution (100 mL) and extracted with EtOAc (3×75 mL). The combined EtOAc extracts were dried (Na2SO4), filtered, concentrated by rotary evaporation and vacuum dried to give a yellow oil containing colorless crystals. The product was recrystallized from EtOAc-cyclohexane (˜1:1-1:2). The mixture was cooled at 5° C. for 16 h. The off-white crystals were filtered, washed with cyclohexane (2×5 mL) and vacuum dried at 40° C. for 16 h affording 7.36 g (68.5%) of off-white, slightly yellow crystals, mp 62.5-65.5° C., literature mp 62-65° C. (P. G. Houghton et al., J. Chem. Soc. Perkin Trans 1 (Issue 13): 1421-1424 (1993), [α]20.5D−25.0° (c 1.0, CH2Cl2), literature [α]D−22.7° (c 1.0, CH2Cl2). The crystallization liquors were concentrated, and the syrup was cooled at 5° C. The resulting yellow crystals were filtered, washed with cyclohexane and vacuum dried at 40° C. producing an additional 2.98 g of a yellow powder, mp 60.5-62.5° C. bringing the total yield to 10.34 g (96.2%).

reactant | di-tert-butyl dicarbonate | 57.39 mmol, 12.53 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (R)-(+)-3-pyrrolidinol | 57.39 mmol, 5.00 g | N1C[C@@H](CC1)O | C4H9NO
reactant | NaHCO3 | 100 mL | C(=O)(O)[O-].[Na+]
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
product | (3R)-N-(tert-Butoxycarbonyl)-3-hydroxypyrrolidine | 2.98 g | C(C)(C)(C)OC(=O)N1C[C@@H](CC1)O | C9H17NO3
